US04294960
Ethyl 2-(2-chloroethoxyimino)-3-oxo-4-chlorobutyrate (syn isomer, 68 g.), thiourea (20.2 g.), sodium acetate trihydrate (36.2 g.), ethanol (270 ml.) and water (170 ml.) were treated in a similar manner to that of Example F-(3) to give ethyl 2-(2-aminothiazol-4-yl)-2-(2-chloroethoxyimino)acetate (syn isomer, 33.7 g.), mp 126° to 128° C.

reactant | Ethyl 2-(2-chloroethoxyimino)-3-oxo-4-chlorobutyrate | 68 g | ClCCON=C(C(=O)OCC)C(CCl)=O | C8H11Cl2NO4
reactant | thiourea | 20.2 g | NC(=S)N | CH4N2S
reactant | sodium acetate trihydrate | 36.2 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | ethanol | 270 ml | C(C)O | C2H6O
solvent | water | 170 ml | O | H2O
product | ethyl 2-(2-aminothiazol-4-yl)-2-(2-chloroethoxyimino)acetate | 33.7 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCCl | C9H12ClN3O3S
